US08202865B2
Intermediate 53: methyl 3-[amino(hydroxyimino)methyl]-4-methoxybenzoate
A solution of methyl 3-cyano-4-methoxybenzoate (518 mg, 2.71 mmol), hydroxylamine (810 μL, 50% in water, 13.55 mmol) in EtOH (20 mL) was heated for 18 h at 60° C. after which time solvents were removed under vacuum, solid residue was triturated with water filtered and dried under vacuum overnight to give the title compound as an off-white solid (600 mg, quant). 1H NMR (DMSO-d6, 300 MHz) δ 9.48 (s, 1H), 7.97-7.95 (m, 2H), 7.20-7.17 (m, 1H), 5.70 (bs, 2H), 3.87 (s, 3H), 3.82 (s, 3H). LC/MS (Method B): 225.1 (M+H)+.

reactant | methyl 3-cyano-4-methoxybenzoate | 2.71 mmol, 518 mg | C(#N)C=1C=C(C(=O)OC)C=CC1OC | C10H9NO3
reactant | hydroxylamine | 13.55 mmol, 810 μL | NO | H3NO
solvent | EtOH | 20 mL | CCO | C2H6O
product | methyl 3-[amino(hydroxyimino)methyl]-4-methoxybenzoate | 600 mg | NC(C=1C=C(C(=O)OC)C=CC1OC)=NO | C10H12N2O4
